US08563575B2
71a) 2-Chloro-3H-imidazo[4,5-b]pyridine
2-(Methylthio)-3H-imidazo[4,5-b]pyridine (3.5 g) was dissolved in conc. HCl (10 mL), and then the mixture was cooled to 0° C. Chlorine gas was bubbled through the mixture for 2 h in iced bath. The mixture was poured onto ice, and neutralized to pH 7 with aqueous ammonium solution. The precipitate was collected by filtration to give the title compound as white crystals (1.0 g).

reactant | 2-(Methylthio)-3H-imidazo[4,5-b]pyridine | 3.5 g | CSC1=NC=2C(=NC=CC2)N1 | C7H7N3S
reactant | HCl | 10 mL | Cl | ClH
product | 2-Chloro-3H-imidazo[4,5-b]pyridine | 1.0 g | ClC1=NC=2C(=NC=CC2)N1 | C6H4ClN3
